US07470679B2
3-(2-Acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-benzyloxycarbonylamino-acrylic acid methyl ester
Palladium (II) acetate (105 mg, 0.43 mmol) was added to a mixture of acetic acid 3-tert-butoxycarbonylamino-6-iodo-2-methyl-benzyl ester (2.89 g, 7.1 mmol), Z-dehydroalanine methyl ester (2.20 g, 9.4 mmol), tetrabutylammonium chloride hydrate (2.70 g, 9.7 mmol), and sodium bicarbonate (1.80 g, 21.4 mmol) in THF (100 mL). Reaction was heated at reflux for 3.75 hours. Mixture was cooled to room temperature then filtered through a plug of silica gel eluting 70% ethyl acetate-hexanes (500 mL). Filtrate was concentrated in vacuo. Silica gel chromatography afforded the title compound as a yellow solid in 69% yield. 1H NMR (300 MHz, CDCl3): δ=7.79 (d, J=8.4, 1H), 7.42 (s, 1H), 7.27 (m, 6H), 6.30 (s, 1H), 5.11 (s, 2H), 5.02 (s, 2H), 3.81 (s, 3H), 2.21 (s, 3H), 2.02 (s, 3H), 1.51 (s, 9H). MS m/e (M−H)−=511.0.

reactant | acetic acid 3-tert-butoxycarbonylamino-6-iodo-2-methyl-benzyl ester | 7.1 mmol, 2.89 g | C(C)(C)(C)OC(=O)NC=1C(=C(COC(C)=O)C(=CC1)I)C | C15H20INO4
reactant | Z-dehydroalanine methyl ester | 9.4 mmol, 2.20 g | COC(=O)C(=C)NC(=O)OCC1=CC=CC=C1 | C12H13NO4
reactant | sodium bicarbonate | 21.4 mmol, 1.80 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride hydrate | 9.7 mmol, 2.70 g | O.[Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Palladium (II) acetate | 0.43 mmol, 105 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(2-Acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-benzyloxycarbonylamino-acrylic acid methyl ester | 69% yield | COC(C(=CC1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)NC(=O)OCC1=CC=CC=C1)=O | C27H32N2O8
